US07838675B2
N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(1R)-2-hydroxy-1-methylethoxy]-4-pyrimidinyl]-1,6-dihydro-1-methyl-6-oxo-3-pyridinesulfonamide
To a solution of N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(1R)-1-methyl-2-(triphenylmethoxy)ethoxy]-4-pyrimidinyl]-1,6-dihydro-1-methyl-6-oxo-3-pyridinesulfonamide (the product from step ii) (0.16 g) in MeOH (10 mL) was added p-toluenesulfonic acid (50 mg) and anisole (0.22 g). The reaction was then stirred at room temperature for 18 h. The reaction was partitioned between EtOAc (100 mL) and H2O (100 mL). The aqueous layer was then further extracted with EtOAc (2×100 mL). Combined organic layers were dried (MgSO4), filtered and evaporated. The residue was purified by reverse phase HPLC using TFA (0.2%)/MeCN to give a white solid. Yield: 9 mg.

reactant | N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(1R)-1-methyl-2-(triphenylmethoxy)ethoxy]-4-pyrimidinyl]-1,6-dihydro-1-methyl-6-oxo-3-pyridinesulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)C1=CN(C(C=C1)=O)C)O[C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H34F2N4O5S2
reactant | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | anisole | 0.22 g | C1(=CC=CC=C1)OC | C7H8O
solvent | MeOH | 10 mL | CO | CH4O
product | N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(1R)-2-hydroxy-1-methylethoxy]-4-pyrimidinyl]-1,6-dihydro-1-methyl-6-oxo-3-pyridinesulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)C1=CN(C(C=C1)=O)C)O[C@@H](CO)C | C20H20F2N4O5S2
